* Helmut Sennewald, Date 12/14/2003
* SPICE Model Of A Electrical Lamp
*
* Calling Parameters:
* -------------------
* UNOM: nominal Voltage
* PNOM: nominal Power
* RCOLD: unpowered(cold) resistance at TCOLD
* TCOLD: temperature where RCOLD was measured, e.g. 25 degree Celsius
* TAU: time constant of filament temperature
* TAMB: ambient temperature
*
* The lamp models can provide up to six control outputs. The difference
* between the models is the number of control outputs.
* Outputs
* -------
* Res: resistance of filament  
* Ptot: total electrical power 
* Light(Poptavg): light power 
* Tfilament: temperature of filament   
* Tbulb: temperature of bulb      *not supported
* Tsocket: temperature of socket  *not supported
*
* The model uses a formula for the resistance versus temperature and one 
* thermal * resistance wth a time constant. 
* All temperatures within the model are in Kelvin. 
* The basic formula: 
*        Tfilament = TAmbient + (Ptot-Popt) * Rth
*                R = Rcold*(Tfilament/Tcold)^1.2
* The ambient temperature TEMP is also included in the model.
* ALPHA: total emitted light conversion efficiency
* RTH: Thermal resistance of filament
*
.SUBCKT lamp0 1 2 
+ UNOM={UNOM} PNOM={PNOM} RCOLD={RCOLD} TCOLD={TCOLD} TAU={TAU} TAMB={TAMB}
*
.PARAM INOM=PNOM/UNOM
.PARAM RHOT=UNOM/INOM
.PARAM TCOLD1=TCOLD+273
.PARAM TEMP1=TCOLD1+(TAMB-(TCOLD1-273))
.PARAM THOT=TCOLD1*(RHOT/RCOLD)**(1/1.2)
.PARAM ALPHA=MIN(0.8, 0.8*(THOT/3300))
.PARAM POPTNOM=ALPHA*PNOM
.PARAM RTH=(THOT-TCOLD1)/(PNOM*(1-ALPHA))
.PARAM CTAU={IF((RTH<=1m), 1m, (TAU/RTH))}
.PARAM TAU2=0.1*TAU
.PARAM C0=1pF
.PARAM L0=1nH
*
L1 1 N001 {L0}
CS N001 2 {C0}
G1 N001 3 VALUE={V(1,2)/V(res)}
V1 3 2 0
G4 0 ptot VALUE={I(V1)*V(1,2)}
R4 ptot 0 1
G3 0 popt VALUE={V(ptot)*MIN(0.8,(ALPHA*(V(tfil)**4-V(tamb)**4)/(THOT**4-V(tamb)**4)))}
R3 popt 0 1
G2 0 tfil VALUE={V(ptot)-V(popt)}
RTH1 tfil tamb {Rth}
CTAU1 tfil tamb {CTAU}
VTAMB tamb 0 {TEMP1}
R6 poptavg 0 1
G6 0 poptavg VALUE={V(popt)}
G5 0 res VALUE={RCOLD*V(tfil)**1.2/TCOLD1**1.2}
R5 res 0 1
CTAU2 poptavg 0 {TAU2}
E1 tbulb 0 VALUE={V(tamb)-273}
E2 tsock 0 VALUE={V(tamb)-273}
E3 tfil1 0 VALUE={V(tfil)-273}
.ends lamp0





* D:\SHARE\ltc\Ltc_spice\Lamp\elamp_models.asc
* Helmut Sennewald, Date 12/14/2003
* SPICE Model Of A Electrical Lamp
*
* Calling Parameters:
* -------------------
* UNOM: nominal Voltage
* PNOM: nominal Power
* RCOLD: unpowered(cold) resistance at TCOLD
* TCOLD: e.g. 25 degree Celsius
* TAU: time constant of TFIL
* TEMP: ambient temperature
*
* The lamp models can provide up to six control outputs.
* Res: resistance of filament  
* Ptot: total electrical power 
* Light(Poptavg): light power 
* Tfilament: temperature of filament   
* Tbulb: temperature of bulb      *not supported
* Tsocket: temperature of socket  *not supported
*
* It uses a formula for the resistance versus temperature and one thermal 
* resistance wth a time constant. All temperatures are in Kelvin degree
* Celsius. The basic formula: 
*        Tfilament = TAmbient + (Ptot-Popt) * Rth
*                R = Rcold*(Tfilament/Tcold)^1.2
* The ambient temperature TEMP is also included in the model.
* ALPHA: Light conversion efficiency
* RTH: Thermal resistance of filament
*
.SUBCKT lamp6 1 2 res ptot poptavg tfil1 tbulb tsock
+ UNOM={UNOM} PNOM={PNOM} RCOLD={RCOLD} TCOLD={TCOLD} TAU={TAU} TAMB={TAMB}
*
.PARAM INOM=PNOM/UNOM
.PARAM RHOT=UNOM/INOM
.PARAM TCOLD1=TCOLD+273
.PARAM TEMP1=TCOLD1+(TAMB-(TCOLD1-273))
.PARAM THOT=TCOLD1*(RHOT/RCOLD)**(1/1.2)
.PARAM ALPHA=MIN(0.8, 0.8*(THOT/3300))
.PARAM POPTNOM=ALPHA*PNOM
.PARAM RTH=(THOT-TCOLD1)/(PNOM*(1-ALPHA))
.PARAM CTAU={IF((RTH<=1m), 1m, (TAU/RTH))}
.PARAM TAU2=0.1*TAU
.PARAM C0=1pF
.PARAM L0=1nH
*
L1 1 N001 {L0}
CS N001 2 {C0}
G1 N001 3 VALUE={V(1,2)/V(res)}
V1 3 2 0
G4 0 ptot VALUE={I(V1)*V(1,2)}
R4 ptot 0 1
G3 0 popt VALUE={V(ptot)*MIN(0.8,(ALPHA*(V(tfil)**4-V(tamb)**4)/(THOT**4-V(tamb)**4)))}
R3 popt 0 1
G2 0 tfil VALUE={V(ptot)-V(popt)}
RTH1 tfil tamb {Rth}
CTAU1 tfil tamb {CTAU}
VTAMB tamb 0 {TEMP1}
R6 poptavg 0 1
G6 0 poptavg VALUE={V(popt)}
G5 0 res VALUE={RCOLD*V(tfil)**1.2/TCOLD1**1.2}
R5 res 0 1
CTAU2 poptavg 0 {TAU2}
E1 tbulb 0 VALUE={V(tamb)-273}
E2 tsock 0 VALUE={V(tamb)-273}
E3 tfil1 0 VALUE={V(tfil)-273}
.ends lamp6





* D:\SHARE\ltc\Ltc_spice\Lamp\elamp_models.asc
* Helmut Sennewald, Date 12/14/2003
* SPICE Model Of A Electrical Lamp
*
* Calling Parameters:
* -------------------
* UNOM: nominal Voltage
* PNOM: nominal Power
* RCOLD: unpowered(cold) resistance at TCOLD
* TCOLD: e.g. 25 degree Celsius
* TAU: time constant of TFIL
* TEMP: ambient temperature
*
* The lamp models can provide up to six control outputs.
* Res: resistance of filament  
* Ptot: total electrical power 
* Light(Poptavg): light power 
* Tfilament: temperature of filament   
* Tbulb: temperature of bulb      *not supported
* Tsocket: temperature of socket  *not supported
*
* It uses a formula for the resistance versus temperature and one thermal 
* resistance wth a time constant. All temperatures are in Kelvin degree
* Celsius. The basic formula: 
*        Tfilament = TAmbient + (Ptot-Popt) * Rth
*                R = Rcold*(Tfilament/Tcold)^1.2
* The ambient temperature TEMP is also included in the model.
* ALPHA: Light conversion efficiency
* RTH: Thermal resistance of filament
*
.SUBCKT lamp3 1 2 res ptot poptavg 
+ UNOM={UNOM} PNOM={PNOM} RCOLD={RCOLD} TCOLD={TCOLD} TAU={TAU} TAMB={TAMB}
*
.PARAM INOM=PNOM/UNOM
.PARAM RHOT=UNOM/INOM
.PARAM TCOLD1=TCOLD+273
.PARAM TEMP1=TCOLD1+(TAMB-(TCOLD1-273))
.PARAM THOT=TCOLD1*(RHOT/RCOLD)**(1/1.2)
.PARAM ALPHA=MIN(0.8, 0.8*(THOT/3300))
.PARAM POPTNOM=ALPHA*PNOM
.PARAM RTH=(THOT-TCOLD1)/(PNOM*(1-ALPHA))
.PARAM CTAU={IF((RTH<=1m), 1m, (TAU/RTH))}
.PARAM TAU2=0.1*TAU
.PARAM C0=1pF
.PARAM L0=1nH
*
L1 1 N001 {L0}
CS N001 2 {C0}
G1 N001 3 VALUE={V(1,2)/V(res)}
V1 3 2 0
G4 0 ptot VALUE={I(V1)*V(1,2)}
R4 ptot 0 1
G3 0 popt VALUE={V(ptot)*MIN(0.8,(ALPHA*(V(tfil)**4-V(tamb)**4)/(THOT**4-V(tamb)**4)))}
R3 popt 0 1
G2 0 tfil VALUE={V(ptot)-V(popt)}
RTH1 tfil tamb {Rth}
CTAU1 tfil tamb {CTAU}
VTAMB tamb 0 {TEMP1}
R6 poptavg 0 1
G6 0 poptavg VALUE={V(popt)}
G5 0 res VALUE={RCOLD*V(tfil)**1.2/TCOLD1**1.2}
R5 res 0 1
CTAU2 poptavg 0 {TAU2}
E1 tbulb 0 VALUE={V(tamb)-273}
E2 tsock 0 VALUE={V(tamb)-273}
E3 tfil1 0 VALUE={V(tfil)-273}
.ends lamp3





* D:\SHARE\ltc\Ltc_spice\Lamp\elamp_models.asc
* Helmut Sennewald, Date 12/14/2003
* SPICE Model Of A Electrical Lamp
*
* Calling Parameters:
* -------------------
* UNOM: nominal Voltage
* PNOM: nominal Power
* RCOLD: unpowered(cold) resistance at TCOLD
* TCOLD: e.g. 25 degree Celsius
* TAU: time constant of TFIL
* TEMP: ambient temperature
*
* The lamp models can provide up to six control outputs.
* Res: resistance of filament  
* Ptot: total electrical power 
* Light(Poptavg): light power 
* Tfilament: temperature of filament   
* Tbulb: temperature of bulb      *not supported
* Tsocket: temperature of socket  *not supported
*
* It uses a formula for the resistance versus temperature and one thermal 
* resistance wth a time constant. All temperatures are in Kelvin degree
* Celsius. The basic formula: 
*        Tfilament = TAmbient + (Ptot-Popt) * Rth
*                R = Rcold*(Tfilament/Tcold)^1.2
* The ambient temperature TEMP is also included in the model.
* ALPHA: Light conversion efficiency
* RTH: Thermal resistance of filament
*
.SUBCKT lamp2 1 2 res ptot 
+ UNOM={UNOM} PNOM={PNOM} RCOLD={RCOLD} TCOLD={TCOLD} TAU={TAU} TAMB={TAMB}
*
.PARAM INOM=PNOM/UNOM
.PARAM RHOT=UNOM/INOM
.PARAM TCOLD1=TCOLD+273
.PARAM TEMP1=TCOLD1+(TAMB-(TCOLD1-273))
.PARAM THOT=TCOLD1*(RHOT/RCOLD)**(1/1.2)
.PARAM ALPHA=MIN(0.8, 0.8*(THOT/3300))
.PARAM POPTNOM=ALPHA*PNOM
.PARAM RTH=(THOT-TCOLD1)/(PNOM*(1-ALPHA))
.PARAM CTAU={IF((RTH<=1m), 1m, (TAU/RTH))}
.PARAM TAU2=0.1*TAU
.PARAM C0=1pF
.PARAM L0=1nH
*
L1 1 N001 {L0}
CS N001 2 {C0}
G1 N001 3 VALUE={V(1,2)/V(res)}
V1 3 2 0
G4 0 ptot VALUE={I(V1)*V(1,2)}
R4 ptot 0 1
G3 0 popt VALUE={V(ptot)*MIN(0.8,(ALPHA*(V(tfil)**4-V(tamb)**4)/(THOT**4-V(tamb)**4)))}
R3 popt 0 1
G2 0 tfil VALUE={V(ptot)-V(popt)}
RTH1 tfil tamb {Rth}
CTAU1 tfil tamb {CTAU}
VTAMB tamb 0 {TEMP1}
R6 poptavg 0 1
G6 0 poptavg VALUE={V(popt)}
G5 0 res VALUE={RCOLD*V(tfil)**1.2/TCOLD1**1.2}
R5 res 0 1
CTAU2 poptavg 0 {TAU2}
E1 tbulb 0 VALUE={V(tamb)-273}
E2 tsock 0 VALUE={V(tamb)-273}
E3 tfil1 0 VALUE={V(tfil)-273}
.ends lamp2
* H:\Ltc_spice\lamp\lamp_models.sub
* Helmut Sennewald, Date 12/5/2003  V1.01
*
* SPICE Model Of An Electric Bulb
* -------------------------------
* The model uses three cascaded thermal resistor elements, 
* the filament, the bulb and the socket. 
* The basic formula:
*   Temperature = TAmbient + Power * (Rth1+Rth2+Rth3)
*   RFilament = R25 + K * (TFilament-T25)
* The ambient temperature TEMP is also included in the model.
* All temperatures are in degree Celsius.
* To disable a thermal resistor of TFIL, TSOCK or TBULB, the 
* corresponding temperature value must be set equal to the value of T25.
*
* Resistance of filament: V(80)
* Electrical power:  V(70)
* Optical power(visual light): V(90)
* Temperature of filament: V(10)
* Temperature of bulb: V(20)
* Temperature of socket: V(30)
* Time constant of filament: TAU1
* Time constant of bulb: TAU2
* Time constant of socket:TAU3
*
*
* Parameter List
* --------------
* IN OUT RESISTANCE ELECTRIC-POWER OPTICAl-POWER T-FILAMENT T-BULB T-SOCKET
*
.SUBCKT HALO12V20W 1 2 80 70 90 10 20 30 
+ UNOM={UNOM} PNOM={PNOM} R25={R25} T25={T25} LEFCY={LEFCY}
+ TFIL={TFIL} TAU1={TAU1} TBULB={TBULB} TAU2={TAU2} TSOCK={TSOCK} TAU3={TAU3}
*  
*.PARAM T25=25
.PARAM RHOT={UNOM*UNOM/PNOM}
.PARAM RTH3={MAX(((TSOCK-T25)/PNOM), 1m)}
.PARAM RTH2={MAX(((TBULB-TSOCK)/PNOM), 1m)}
.PARAM RTH1={MAX(((TFIL-TBULB)/PNOM), 1m)}
.PARAM CTAU1={IF((RTH1<=1m), 1m, (TAU1/RTH1))}
.PARAM CTAU2={IF((RTH2<=1m), 1m, (TAU2/RTH2))}
.PARAM CTAU3={IF((RTH3<=1m), 1m, (TAU3/RTH3))}
*
G1 1 3 VALUE={V(1,2)/V(80)}
V1 3 2 0
G2 0 10 VALUE={(TFIL-T25)*V(70)/PNOM/(RTH1+RTH2+RTH3)}
C1 10 20 {CTAU1}
C2 20 30 {CTAU2}
C3 30 40 {CTAU3}
RTH1 10 20 {Rth1}
RTH2 20 30 {Rth2}
RTH3 30 40 {Rth3}
VAMB 40 0 {TEMP}
EEP 70 0 VALUE={I(V1)*V(1,2)}
EER 80 0 VALUE={R25+(RHOT-R25)*(V(10)-T25)/(TFIL-T25)}
EOP 90 0 VALUE={PNOM*LEFCY*(V(10)-(273+TEMP))**4/(TFIL-(273+TEMP))**4}
.ends HALO12V20W

* Parameter List
* --------------
* IN OUT RESISTANCE ELECTRIC-POWER OPTICAl-POWER T-FILAMENT T-BULB T-SOCKET
*
* Six output nodes
.SUBCKT HALO12V20W6 1 2 80 70 90 10 20 30 
+ UNOM={UNOM} PNOM={PNOM} R25={R25} T25={T25} LEFCY={LEFCY}
+ TFIL={TFIL} TAU1={TAU1} TBULB={TBULB} TAU2={TAU2} TSOCK={TSOCK} TAU3={TAU3}
*  
*.PARAM T25=25
.PARAM RHOT={UNOM*UNOM/PNOM}
.PARAM RTH3={MAX(((TSOCK-T25)/PNOM), 1m)}
.PARAM RTH2={MAX(((TBULB-TSOCK)/PNOM), 1m)}
.PARAM RTH1={MAX(((TFIL-TBULB)/PNOM), 1m)}
.PARAM CTAU1={IF((RTH1<=1m), 1m, (TAU1/RTH1))}
.PARAM CTAU2={IF((RTH2<=1m), 1m, (TAU2/RTH2))}
.PARAM CTAU3={IF((RTH3<=1m), 1m, (TAU3/RTH3))}
*
G1 1 3 VALUE={V(1,2)/V(80)}
V1 3 2 0
G2 0 10 VALUE={(TFIL-T25)*V(70)/PNOM/(RTH1+RTH2+RTH3)}
C1 10 20 {CTAU1}
C2 20 30 {CTAU2}
C3 30 40 {CTAU3}
RTH1 10 20 {Rth1}
RTH2 20 30 {Rth2}
RTH3 30 40 {Rth3}
VAMB 40 0 {TEMP}
EEP 70 0 VALUE={I(V1)*V(1,2)}
EER 80 0 VALUE={R25+(RHOT-R25)*(V(10)-T25)/(TFIL-T25)}
EOP 90 0 VALUE={PNOM*LEFCY*(V(10)-(273+TEMP))**4/(TFIL-(273+TEMP))**4}
.ends HALO12V20W6

* Parameter List
* --------------
* IN OUT RESISTANCE ELECTRIC-POWER OPTICAl-POWER T-FILAMENT T-BULB T-SOCKET
*
* Two output nodes
.SUBCKT HALO12V20W2 1 2 80 70
+ UNOM={UNOM} PNOM={PNOM} R25={R25} T25={T25} LEFCY={LEFCY}
+ TFIL={TFIL} TAU1={TAU1} TBULB={TBULB} TAU2={TAU2} TSOCK={TSOCK} TAU3={TAU3}
*  
*.PARAM T25=25
.PARAM RHOT={UNOM*UNOM/PNOM}
.PARAM RTH3={MAX(((TSOCK-T25)/PNOM), 1m)}
.PARAM RTH2={MAX(((TBULB-TSOCK)/PNOM), 1m)}
.PARAM RTH1={MAX(((TFIL-TBULB)/PNOM), 1m)}
.PARAM CTAU1={IF((RTH1<=1m), 1m, (TAU1/RTH1))}
.PARAM CTAU2={IF((RTH2<=1m), 1m, (TAU2/RTH2))}
.PARAM CTAU3={IF((RTH3<=1m), 1m, (TAU3/RTH3))}
*
G1 1 3 VALUE={V(1,2)/V(80)}
V1 3 2 0
G2 0 10 VALUE={(TFIL-T25)*V(70)/PNOM/(RTH1+RTH2+RTH3)}
C1 10 20 {CTAU1}
C2 20 30 {CTAU2}
C3 30 40 {CTAU3}
RTH1 10 20 {Rth1}
RTH2 20 30 {Rth2}
RTH3 30 40 {Rth3}
VAMB 40 0 {TEMP}
EEP 70 0 VALUE={I(V1)*V(1,2)}
EER 80 0 VALUE={R25+(RHOT-R25)*(V(10)-T25)/(TFIL-T25)}
EOP 90 0 VALUE={PNOM*LEFCY*(V(10)-(273+TEMP))**4/(TFIL-(273+TEMP))**4}
.ends HALO12V20W2

* Parameter List
* --------------
* IN OUT RESISTANCE ELECTRIC-POWER OPTICAl-POWER T-FILAMENT T-BULB T-SOCKET
*
* Zero output nodes
.SUBCKT HALO12V20W0 1 2 
+ UNOM={UNOM} PNOM={PNOM} R25={R25} T25={T25} LEFCY={LEFCY}
+ TFIL={TFIL} TAU1={TAU1} TBULB={TBULB} TAU2={TAU2} TSOCK={TSOCK} TAU3={TAU3}
*  
*.PARAM T25=25
.PARAM RHOT={UNOM*UNOM/PNOM}
.PARAM RTH3={MAX(((TSOCK-T25)/PNOM), 1m)}
.PARAM RTH2={MAX(((TBULB-TSOCK)/PNOM), 1m)}
.PARAM RTH1={MAX(((TFIL-TBULB)/PNOM), 1m)}
.PARAM CTAU1={IF((RTH1<=1m), 1m, (TAU1/RTH1))}
.PARAM CTAU2={IF((RTH2<=1m), 1m, (TAU2/RTH2))}
.PARAM CTAU3={IF((RTH3<=1m), 1m, (TAU3/RTH3))}
*
G1 1 3 VALUE={V(1,2)/V(80)}
V1 3 2 0
G2 0 10 VALUE={(TFIL-T25)*V(70)/PNOM/(RTH1+RTH2+RTH3)}
C1 10 20 {CTAU1}
C2 20 30 {CTAU2}
C3 30 40 {CTAU3}
RTH1 10 20 {Rth1}
RTH2 20 30 {Rth2}
RTH3 30 40 {Rth3}
VAMB 40 0 {TEMP}
EEP 70 0 VALUE={I(V1)*V(1,2)}
EER 80 0 VALUE={R25+(RHOT-R25)*(V(10)-T25)/(TFIL-T25)}
EOP 90 0 VALUE={PNOM*LEFCY*(V(10)-(273+TEMP))**4/(TFIL-(273+TEMP))**4}
.ends HALO12V20W0

* Parameter List
* --------------
* Simple Lampe mit Bemessungsspannung und Bemessungsleistung
*
* Parameters: U P

.SUBCKT Lampe 1 2
+ UNOM={U} PNOM={P}
*  
.PARAM RNOM={UNOM*UNOM/PNOM}
*
R1 1 2 {RNOM}
.ends Lampe